* Netlist gerada automaticamente a partir do circuit.json
.tran 1

I1 0 N001 10m
R1 N001 N002 2.2k
R5 N002 0 1k
R2 N002 N003 4.7k
R6 N003 0 2.2k
R3 N003 N004 6.8k
R7 N004 0 3.3k
R4 N004 N005 10k

.end